US04421913
The well-known Ellard process is exemplified by U.S. Pat. No. 4,080,325 Ellard and claim 1 of the patent sets out the steps for preparing methotrexate as follows: (a) reacting tetraaminopyrimidinehydrochloride with dihydroxyacetone in the presence of air and water and at a pH in the range of 5.5±0.2 to give 2,4-diamino-6-hydroxy-methylpteridine; (b) converting the 2,4-diamino-6-hydroxy-methylpteridine to the hydrobromide salt, namely, 2,4-diamino-6-hydroxymethylpteridine hydrobromide salt; (c) reacting the 2,4-diamino-6-hydroxymethylpteridine hydrobromide salt with triphenyldibromophosphorane to give 2,4-bis(triphenylphosphazine)-6-bromomethylpteridine hydrobromide; (d) reacting the 2,4-bis(triphenylphosphazino)-6-bromomethylpteridine hydrobromide with ethyl N-(p-methylamino)benzylglutamate to give the phosphazino derivative of methotrexate ester; (e) hydrolyzing the phosphazino derivative of methotrexate ester to give triphenylphosphine oxide and methotrexate ester; and (f) hydrolyzing the methotrexate ester to give methotrexate.

reactant | methotrexate | CN(CC=1C=NC2=C(N1)C(=NC(=N2)N)N)C=3C=CC(=CC3)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C20H22N8O5
reactant | tetraaminopyrimidinehydrochloride | Cl.NC1=C(C(=NC(=N1)N)N)N
reactant | dihydroxyacetone | OC(C(C)=O)O | C3H6O3
solvent | water | O | H2O
product | 2,4-diamino-6-hydroxy-methylpteridine | NC1=NC2=NC(=C(N=C2C(=N1)N)O)C | C7H8N6O
